US07932271B2
(2,5-Difluorophenyl)(3-fluoro-5-hydroxymethylpyridin-2-yl)methanol
To a tetrahydrofuran (7 ml) solution of [5-(t-butyldiphenylsilyloxymethyl)-3-fluoropyridin-2-yl](2,5-difluorophenyl)methanol (853 mg, 1.68 mmol) was added a tetrahydrofuran solution (1.04 ml, 1.04 mmol) of tetrabutylammonium fluoride. The mixture was stirred at room temperature for 5 hours. After the reaction mixture was concentrated under reduced pressure, the residue thus obtained was dissolved in ethyl acetate. The resulting solution was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate and then, filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel chromatography. The fraction obtained from the hexane:ethyl acetate=1:1 eluate was concentrated under reduced pressure to give the title compound (413 mg, 1.53 mmol, 91%) as a white solid.

reactant | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
reactant | [5-(t-butyldiphenylsilyloxymethyl)-3-fluoropyridin-2-yl](2,5-difluorophenyl)methanol | 1.68 mmol, 853 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C(=NC1)C(O)C1=C(C=CC(=C1)F)F)F | C29H28F3NO2Si
reactant | tetrahydrofuran | 1.04 mmol, 1.04 ml | O1CCCC1 | C4H8O
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2,5-Difluorophenyl)(3-fluoro-5-hydroxymethylpyridin-2-yl)methanol | 1.53 mmol, 413 mg, 91% | FC1=C(C=C(C=C1)F)C(O)C1=NC=C(C=C1F)CO | C13H10F3NO2
